US06545017B1
N-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]-N′-[(1R,2S)-2-phenylcyclopropyl]urea
Using the method of Examples 118-133, trans-2-phenylcyclopropyl isocyanate was reacted with 1-(2-aminoethyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 379.2235.

reactant | trans-2-phenylcyclopropyl isocyanate | C1(=CC=CC=C1)[C@H]1[C@@H](C1)N=C=O | C10H9NO
reactant | 1-(2-aminoethyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C11H17N5
product | N-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]-N′-[(1R,2S)-2-phenylcyclopropyl]urea | NC1=NC(=C(C2=C1N=C(N2CCNC(=O)N[C@H]2[C@@H](C2)C2=CC=CC=C2)C)C)C | C21H26N6O
